schmitt ckt - ecl compatible schmitt trigger
* modified from Spice-3 examples
*>.load ./c_debug.so
*>.load ./cbs.so

vin 1 0 pulse(-1.6 -1.2 10ns 400ns 400ns 100ns 10000ns)
vee 8 0 -5
rin 1 2 50
rc1 0 3 50
r1 3 5 185
r2 5 8 760
rc2 0 6 100
re 4 8 260
rth1 7 8 125
rth2 7 0 85
cload 7 0 5pf
q1 3 2 4 0 qstd off=1
q2 6 5 4 0 qstd
q3 0 6 7 0 qstd
q4 0 6 7 0 qstd
.model qstd npn(is=1.0e-16 bf=50 br=0.1 rb=50 rc=10 tf=0.12ns tr=5ns
+   cje=0.4pf pe=0.8 me=0.4 cjc=0.5pf pc=0.8 mc=0.333 ccs=1pf va=50)

.op
.print tran v(1) v(3) v(5) v(6)
*>.tran 20ns 1000ns
*>.status notime
*>.portdump
*>.cbsstat
*>.cbsdump
.end
